US08865675B2
Synthesis of Ethyl 6-(Dimethylamino)Hexanoate
Ethyl 6-(methanesulfonyl)hexanoate was allowed to react in a 5.6M solution of dimethylamine in ethanol (100 mL) for 17 hours. The solution was then concentrated in vacuo to dryness. The resulting bright orange paste was purified by column chromatography (column 5″L×2″W; eluted with a gradient of 100% dichloromethane→1%/0.25%→2%/0.5% MeOH/NH4OH in dichloromethane) to afford the product as a yellow oil.

reactant | Ethyl 6-(methanesulfonyl)hexanoate | CS(=O)(=O)CCCCCC(=O)OCC | C9H18O4S
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 6-(Dimethylamino)Hexanoate | CN(CCCCCC(=O)OCC)C | C10H21NO2
